* Schematics Netlist *



X_U4A         $N_0001 $N_0001 F $G_DPWR $G_DGND 74AS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND A0 IO_STM STIMULUS=A0
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND A1 IO_STM STIMULUS=A1
X_U1A         A0 A0 $N_0002 $G_DPWR $G_DGND 74AS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         A1 A1 $N_0003 $G_DPWR $G_DGND 74AS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0002 $N_0003 $N_0001 $G_DPWR $G_DGND 74AS02 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
