* Schematics Netlist *



X_U2A         A0 A0 $N_0001 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         A3 A1 $N_0002 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         A1 A1 $N_0003 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         $N_0003 $N_0004 $N_0005 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         A2 A0 $N_0004 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         $N_0003 $N_0006 e $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         A3 $N_0005 d $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         $N_0001 $N_0003 c $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0001 $N_0002 b $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         A2 A0 a $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         A2 A2 $N_0006 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND A0 IO_STM STIMULUS=A0
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND A1 IO_STM STIMULUS=A1
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND A2 IO_STM STIMULUS=A2
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND A3 IO_STM STIMULUS=A3
X_U12A         $D_LO f $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13A         $D_LO g $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
